US08912188B2
To a solution of (4-methoxyphenyl)methyl 2-(3-formyl-4-hydroxyphenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (190 mg, 0.39 mmol) in water (5 mL) was added aminooxysulfonic acid (83 mg, 0.48 mmol) and methanol (5 mL). The resulting solution was stirred overnight at 25° C. Then the reaction was quenched by the addition of water (200 mL) and extracted with ethyl acetate (3×50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 1% to 5% ethyl acetate in petroleum to afford (4-methoxyphenyl)methyl 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate as a yellow solid (50 mg, 26%).

reactant | (4-methoxyphenyl)methyl 2-(3-formyl-4-hydroxyphenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.39 mmol, 190 mg | C(=O)C=1C=C(C=CC1O)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OCC1=CC=C(C=C1)OC | C28H27N3O5
reactant | aminooxysulfonic acid | 0.48 mmol, 83 mg | NOS(=O)(=O)O | H3NO4S
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | (4-methoxyphenyl)methyl 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 50 mg, 26% | O1N=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)OCC2=CC=C(C=C2)OC | C28H26N4O4
